US08426420B2
(ii) 4-((S)-4-tert-Butoxycarbonyl-2-{[5-((S)-1-carboxy-ethoxy)-1-phenyl-1H-pyrazole-3-carbonyl]-amino}-butyryl)-piperazine-1-carboxylic acid ethyl ester
To a solution of 5.84 g 4-((S)-2-{[5-((S)-1-Benzyloxycarbonyl-ethoxy)-1-phenyl-1H-pyrazole-3-carbonyl]-amino}-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester in 30 ml ethyl acetate was added under argon 1.0 g Pd/C (10%) and the suspension was stirred under an atmosphere of hydrogen (1 bar) for 16 h. The suspension was filtered over a plug of Celite® and washed with ethyl acetate. The crude product obtained after evaporation of the solvent was dried under vacuo. Yield: 4.59 g.

reactant | 4-((S)-2-{[5-((S)-1-Benzyloxycarbonyl-ethoxy)-1-phenyl-1H-pyrazole-3-carbonyl]-amino}-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester | 5.84 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)O[C@@H](C)C(=O)OCC1=CC=CC=C1)C1=CC=CC=C1)=O | C36H45N5O9
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 4-((S)-4-tert-Butoxycarbonyl-2-{[5-((S)-1-carboxy-ethoxy)-1-phenyl-1H-pyrazole-3-carbonyl]-amino}-butyryl)-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)O[C@@H](C)C(=O)O)C1=CC=CC=C1)=O | C29H39N5O9
